data/mechanisms/records/IMS8-EQ8.10.json
{"mechanism_id": "IMS8-EQ8.10", "species": [{"species_id": "ethoxymethyl_cation", "mapped_smiles": "[CH3:1][CH2:2][O+:3]=[CH2:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ethyl_cation", "mapped_smiles": "[CH3:1][CH2+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "formaldehyde_neutral", "mapped_smiles": "[O:3]=[CH2:4]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ethoxymethyl_cation"]}, {"state_id": "state_products", "species_ids": ["ethyl_cation", "formaldehyde_neutral"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 147, "equation": "8.10", "figure": null, "panel": null, "section": "8.2 Product stability"}, "confidence": 0.8, "curator_note": "EXPERIMENTAL CONTEXT: this is the dissociation of the mass-selected even-electron oxonium ion C2H5O+=CH2 (m/z 59), itself generated by EI alpha-cleavage of diethyl ether; not a 70 eV EI reaction of a molecular ion. The 'i' label is a reaction-type mark (i = inductive, rH = H-rearrangement), NOT an electron-pushing arrow (0 arcs drawn). Abundance 'CAD: 9%' is a collision-activated-dissociation branching yield, not an EI intensity. Eq 8.10, upper ('i') branch of the fork drawn from the even-electron oxocarbenium ion C2H5O(+)=CH2 (m/z 59, itself the alpha-cleavage fragment of the diethyl-ether molecular ion). Inductive (charge-migration) cleavage: the C2-O3 sigma bond breaks heterolytically, both electrons going to oxygen, giving the ethyl cation C2H5+ (m/z 29) and neutral formaldehyde O=CH2 (PA = 7.4 eV printed). Book draws 0 electron-pushing arcs; the page shows only the net reaction arrow labelled 'i' (inductive) and the product formulae. The single 2-electron move encoded (C2-O3 bonding pair -> O lone pair) is implied by the reaction type and products, not drawn on the page. The printed '9%' is a CAD (collision-activated dissociation) branching abundance of the mass-selected m/z 59 ion, not a 70 eV EI intensity."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "collision-activated dissociation (CAD)", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 59.0491, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_29", "species_id": "ethyl_cation", "step_id": "step_inductive_cleavage", "observed_mz": 29.0386, "relative_intensity": 0.09, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
